US04876261
To 790 mg of 6-methoxy-4-(3,4-dimethoxyphenyl)-1,2,3,4-tetrahydroisoquinoline, was added 16 ml of 48% hydrobromic acid, and the mixture was heated under reflux for 3 hours under an argon stream. The reaction solution was cooled, and precipitates which separated out were collected by filtration, giving 630 mg of 6-hydroxy-4-(3,4-dihydroxyphenyl)-1,2,3,4-tetrahydroisoquinoline hydrobromide.

reactant | 6-methoxy-4-(3,4-dimethoxyphenyl)-1,2,3,4-tetrahydroisoquinoline | 790 mg | COC=1C=C2C(CNCC2=CC1)C1=CC(=C(C=C1)OC)OC | C18H21NO3
reactant | hydrobromic acid | 16 ml | Br | BrH
product | 6-hydroxy-4-(3,4-dihydroxyphenyl)-1,2,3,4-tetrahydroisoquinoline hydrobromide | 630 mg | Br.OC=1C=C2C(CNCC2=CC1)C1=CC(=C(C=C1)O)O | InChI=1S/C15H15NO3.BrH/c17-11-3-1-10-7-16-8-13(12(10)6-11)9-2-4-14(18)15(19)5-9;/h1-6,13,16-19H,7-8H2;1H
